US07265227B2
N-[3-[4-(3,4-dichlorophenoxy)-1-piperidinyl]-1-oxopropyl]4-methyl-benzenesulfonamide (an example of a compound of formula (Ic))
4-Methyl-N-(1-oxo-2-propenyl)-benzenesulfonamide (0.140 g) was dissolved in THF (10 mL) and 4-(3,4-dichlorophenoxy)-piperidine (0.120 g) and NaOH (0.080 g) were added. The reaction mixture was stirred for 72 h. The solvents were evaporated. The residue was purified by HPLC (gradient Ammonium acetate/Acetonitrile 95% to 5%; Xterra column) to give the title compound (40 mg)

reactant | 4-Methyl-N-(1-oxo-2-propenyl)-benzenesulfonamide | 0.140 g | CC1=CC=C(C=C1)S(=O)(=O)NC(C=C)=O | C10H11NO3S
reactant | 4-(3,4-dichlorophenoxy)-piperidine | 0.120 g | ClC=1C=C(OC2CCNCC2)C=CC1Cl | C11H13Cl2NO
reactant | NaOH | 0.080 g | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-[3-[4-(3,4-dichlorophenoxy)-1-piperidinyl]-1-oxopropyl]4-methyl-benzenesulfonamide | 40 mg | ClC=1C=C(OC2CCN(CC2)CCC(=O)NS(=O)(=O)C2=CC=C(C=C2)C)C=CC1Cl | C21H24Cl2N2O4S
